US07087594B2
In 100 mL of methylene chloride was dissolved 10.0 g of 1-[2-hydroxy-5-(2-hydroxyethyl)-4-methoxyphenyl]-1-ethanone, and 2.94 mL of bromine was added dropwise to the solution, after which the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water and the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 16.4 g of 2-bromo-1-[2-hydroxy-5-(2-hydroxyethyl)-4-methoxyphenyl]-1-ethanone as a yellow oil.

reactant | 1-[2-hydroxy-5-(2-hydroxyethyl)-4-methoxyphenyl]-1-ethanone | 10.0 g | OC1=C(C=C(C(=C1)OC)CCO)C(C)=O | C11H14O4
reactant | bromine | 2.94 mL | BrBr | Br2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-[2-hydroxy-5-(2-hydroxyethyl)-4-methoxyphenyl]-1-ethanone | 16.4 g | BrCC(=O)C1=C(C=C(C(=C1)CCO)OC)O | C11H13BrO4
